US05237085
In a 250 mL four-necked reaction flask fitted with a mechanical stirrer, pot thermometer, addition funnel, and condenser with gas outlet were placed 42.5 g (0.313 mole) of pentaerythritol and 150 mL of PHOSFLEX 41P brand of isopropylated triphenyl phosphate under nitrogen. The mixture was stirred and heated at 95° C. as 49.2 g (0.321 mole) of phosphorus oxychloride was added dropwise over five hours. The resulting white slurry was heated to 100° C. with a nitrogen gas sparge for eight hours to remove HCl. The mixture was cooled to 50° C. and filtered. The solid was washed three times with 40 mL of hexane and dried at 100° C./2 mm Hg for sixteen hours to give 42.3 g (71.2% yield) of crude pentaerythritol phosphate alcohol (2,6,7-trioxa- 1-phosphabicyclo [2.2.2]octane-4-methanol-1-oxide). The product had a 31P NMR resonance at -6.0 ppm in d6 -DMSO.

reactant | pentaerythritol | 0.313 mole, 42.5 g | OCC(CO)(CO)CO | C5H12O4
reactant | phosphorus oxychloride | 0.321 mole, 49.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | PHOSFLEX 41P | 150 mL | CC(C)C1=CC=C(C=C1)OP(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3.CC(C)C1=CC(=CC=C1)OP(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3.CC(C)C1=CC=CC=C1OP(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3 | 3C21H21O4P
product | pentaerythritol phosphate alcohol | 42.3 g, 71.2% yield | C1C2(COP(=O)(O1)OC2)CO | C5H9O5P
